### PR TITLE
Add Erdős Problem 690 (unimodality of k-th prime factor densities), link the formal proof

### LINKED ISSUE #882: Erdős Problem 690
### What is the conjecture
    
https://www.erdosproblems.com/690

  Let $d_k(p)$ be the density of those integers whose $k$th smallest prime factor is $p$ (i.e. if $p_1<p_2<\cdots$ are the primes dividing $n$ then $p_k=p$).

For fixed $k\geq 1$ is $d_k(p)$ unimodular in $p$? That is, it first increases in $p$ until its maximum then decreases.
  

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #882.

### What changed
Adds `FormalConjectures/ErdosProblems/690.lean` with `kthPrimeFactorSet k p` (integers whose `k`-th smallest prime factor is `p`) and `IsUnimodalOnPrimes`:
- `erdos_690` (`research solved`, `answer(False)`): `d_k(p)` is not unimodular for every `k ≥ 1` (it fails for `k = 4`, Cambie [Ca25]). Since the densities exist (`variants.hasDensity`), the statement quantifies over any function recording them.
- `variants.hasDensity`, `variants.cambie_unimodal` (`1 ≤ k ≤ 3`), `variants.cambie_not_unimodal` (`4 ≤ k ≤ 20`).

All four linked to plby/lean-proofs `Erdos690.erdos_690` (Codex and GPT-5.6 Sol; 9 Mathlib-only files), which computes the densities exactly as rationals.
- Open variant: whether `d_k` is unimodular for some `k ≥ 21`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib (with `Util/Density` replaced by this repo's `Set.HasDensity`): `#print axioms Erdos690.erdos_690` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (uniqueness of the density identifies any recorded `d` with plby's formula on primes):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge690

lemma set_eq (k p : ℕ) (hk : 1 ≤ k) :
    Erdos690.kthPrimeFactorSet k p = Erdos690Plby.kthPrimeFactorSet k p := by
  ext n
  simp only [Erdos690.kthPrimeFactorSet, Erdos690Plby.kthPrimeFactorSet,
    Erdos690Plby.IsKthSmallestPrimeFactor, Set.mem_ofPred_eq]
  constructor
  · rintro ⟨-, h1, h2⟩
    exact ⟨hk, h1, h2⟩
  · rintro ⟨-, h1, h2⟩
    refine ⟨?_, h1, h2⟩
    rcases Nat.eq_zero_or_pos n with rfl | h
    · simp at h1
    · exact h

lemma unimodal_cast (f : ℕ → ℚ) :
    Erdos690.IsUnimodalOnPrimes (fun p => (f p : ℝ)) ↔ Erdos690Plby.UnimodalOnPrimes f := by
  unfold Erdos690.IsUnimodalOnPrimes Erdos690Plby.UnimodalOnPrimes
  simp only [Rat.cast_le]

lemma unimodal_congr {f g : ℕ → ℝ} (h : ∀ p, p.Prime → f p = g p) :
    Erdos690.IsUnimodalOnPrimes f ↔ Erdos690.IsUnimodalOnPrimes g := by
  unfold Erdos690.IsUnimodalOnPrimes
  refine exists_congr fun m => and_congr_right fun hm => ?_
  constructor
  · rintro ⟨h1, h2⟩
    exact ⟨fun p q hp hq hpq hqm => by rw [← h p hp, ← h q hq]; exact h1 p q hp hq hpq hqm,
      fun p q hp hq hmp hpq => by rw [← h p hp, ← h q hq]; exact h2 p q hp hq hmp hpq⟩
  · rintro ⟨h1, h2⟩
    exact ⟨fun p q hp hq hpq hqm => by rw [h p hp, h q hq]; exact h1 p q hp hq hpq hqm,
      fun p q hp hq hmp hpq => by rw [h p hp, h q hq]; exact h2 p q hp hq hmp hpq⟩

/-- Any recorded densities agree with plby's explicit formula on primes. -/
lemma d_eq {k : ℕ} (hk : 1 ≤ k) {d : ℕ → ℝ}
    (hd : ∀ p, p.Prime → (Erdos690.kthPrimeFactorSet k p).HasDensity (d p)) {p : ℕ}
    (hp : p.Prime) : d p = ((Erdos690Plby.primeFactorDensity k p : ℚ) : ℝ) := by
  have h1 := hd p hp
  have h2 := Erdos690Plby.erdos_690.1 k p hk hp
  rw [set_eq k p hk] at h1
  exact tendsto_nhds_unique h1 h2

theorem hasDensity : type_of% Erdos690.erdos_690.variants.hasDensity := by
  intro k p hk hp
  refine ⟨((Erdos690Plby.primeFactorDensity k p : ℚ) : ℝ), ?_⟩
  rw [set_eq k p hk]
  exact Erdos690Plby.erdos_690.1 k p hk hp

theorem cambie_unimodal : type_of% Erdos690.erdos_690.variants.cambie_unimodal := by
  intro k hk hk' d hd
  rw [unimodal_congr fun p hp => d_eq hk hd hp, unimodal_cast]
  exact Erdos690Plby.erdos_690.2.1 k hk hk'

theorem cambie_not_unimodal : type_of% Erdos690.erdos_690.variants.cambie_not_unimodal := by
  intro k hk hk' d hd
  rw [unimodal_congr fun p hp => d_eq (by omega) hd hp, unimodal_cast]
  exact Erdos690Plby.erdos_690.2.2 k hk hk'

theorem erdos_690_bridge : type_of% Erdos690.erdos_690 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  have := h 4 (by norm_num) (fun p => ((Erdos690Plby.primeFactorDensity 4 p : ℚ) : ℝ))
    (fun p hp => by rw [set_eq 4 p (by norm_num)]; exact Erdos690Plby.erdos_690.1 4 p (by norm_num) hp)
  rw [unimodal_cast] at this
  exact Erdos690Plby.erdos_690.2.2 4 le_rfl (by norm_num) this

#print axioms Erdos690Plby.erdos_690
#print axioms erdos_690_bridge
#print axioms hasDensity
#print axioms cambie_unimodal
#print axioms cambie_not_unimodal

end Bridge690
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«690»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/690.lean [hunk 1]
```diff
@@ -0,0 +1,97 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/690.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
